US07423142B2
3-({6-[17-(1,5-Dimethyl-hexyl)-10,13-dimethyl-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxycarbonylamino]-hexanoyl}ethoxycarbonylmethyl-amino)-propionic acid ethyl ester AD
The hydrochloride salt of 3-[(6-Amino-hexanoyl)-ethoxycarbonylmethyl-amino]-propionic acid ethyl ester AC (4.7 g, 14.8 mmol) was taken up in dichloromethane. The suspension was cooled to 0° C. on ice. To the suspension diisopropylethylamine (3.87 g, 5.2 mL, 30 mmol) was added. To the resulting solution cholesteryl chloroformate (6.675 g, 14.8 mmol) was added. The reaction mixture was stirred overnight. The reaction mixture was diluted with dichloromethane and washed with 10% hydrochloric acid. The product was purified by flash chromatography (10.3 g, 92%).

reactant | 3-[(6-Amino-hexanoyl)-ethoxycarbonylmethyl-amino]-propionic acid ethyl ester | C(C)OC(CCN(CC(=O)OCC)C(CCCCCN)=O)=O | C15H28N2O5
reactant | diisopropylethylamine | 30 mmol, 5.2 mL, 3.87 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cholesteryl chloroformate | 14.8 mmol, 6.675 g | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-({6-[17-(1,5-Dimethyl-hexyl)-10,13-dimethyl-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxycarbonylamino]-hexanoyl}ethoxycarbonylmethyl-amino)-propionic acid ethyl ester | C(C)OC(CCN(CC(=O)OCC)C(CCCCCNC(=O)OC1CCC2(C3CCC4(C(CCC4C3CC=C2C1)C(CCCC(C)C)C)C)C)=O)=O | C43H72N2O7
